US06458780B1
d) 7-t-Butyldimethylsilyloxyacetyl-5-methyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
7-t-Butyldimethylsilyloxyacetyl-5-methylimidazo-[5,1-b]thiazole (49.5 mg) was dissolved in 2 ml of THF and 0.4 ml of HMPA. Tri-n-butylstannyl chloride (0.059 ml) and 0.319 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added dropwise in that order to the solution in an argon atmosphere at −73° C. The mixture was stirred at the same temperature for one hr. A 1.0 N lithiumbis(trimethylsilyl)amide/THF solution (0.160 ml) was added dropwise thereto. The mixture was stirred at the same temperature for additional 40 min. An ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate and washing three times with brine. The extract was dried over anhydrous magnesium sulfate and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 66.9 mg of the title compound.

reactant | 7-t-Butyldimethylsilyloxyacetyl-5-methylimidazo-[5,1-b]thiazole | 49.5 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=C(N2C1SC=C2)C | C14H22N2O2SSi
reactant | Tri-n-butylstannyl chloride | 0.059 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N, 0.160 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | HMPA | 0.4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 7-t-Butyldimethylsilyloxyacetyl-5-methyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 66.9 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=C(N2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C14H21N2O2SSi.3C4H9.Sn/c1-10-15-12(13-16(10)7-8-19-13)11(17)9-18-20(5,6)14(2,3)4;3*1-3-4-2;/h7H,9H2,1-6H3;3*1,3-4H2,2H3;
